US06306851B1
3-Allyloxycarbonylamino-5-(3-chloro-phenyl)-thiophene-2-carboxylic acid methyl ester
To a solution of 3-Amino-5-(3-chloro-phenyl)-thiophene-2-carboxylic acid methyl ester (15 g, 56.0 mmol) in toluene (200 mL) was added a solution of allyl chloroformate (8.10 g, 67.2 mmol) in toluene (5.0 mL) and the resulting reaction solution was heated under reflux for 3 h. Toluene was stripped down and the crystals were collected and washed with ether/hexane to afford a yellow crystalline compound, mp 101-103° C. 1H NMR (DMSO-d6) δ3.85 (s, 3H), 4.68-4.71 (d, 2H, J=5.46 Hz), 5.26-5.30 (dd, 1H, J=1.35, 9.84 Hz), 5.36-5.42 (dd, 1H, J=1.57, 15.68 Hz), 5.96(m, 2H), 7.50-7.52 (m, 2H), 7.67-7.71 (m, 1H), 7.79 (s, 1H), 8.10 (s, 1H); MS(+APCI) m/z 352(M+H); Anal. Calc. For C16H14ClNO4S: C, 54.63; H, 4.01; N, 3.97. Found: C, 54.05; H, 4.17; N, 3.84.

reactant | 3-Amino-5-(3-chloro-phenyl)-thiophene-2-carboxylic acid methyl ester | 56.0 mmol, 15 g | COC(=O)C=1SC(=CC1N)C1=CC(=CC=C1)Cl | C12H10ClNO2S
reactant | allyl chloroformate | 67.2 mmol, 8.10 g | ClC(=O)OCC=C | C4H5ClO2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Allyloxycarbonylamino-5-(3-chloro-phenyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1NC(=O)OCC=C)C1=CC(=CC=C1)Cl | C16H14ClNO4S
